US05235118
continuously feeding the organic phase of step (8) to a hydrogenation zone wherein the 2-ethyl-2-(hydroxymethyl)hexanal is contacted with a supported nickel hydrogenation catalyst at a total pressure of about 21 to 36 bars absolute and at a hydrogenation zone exit temperature of about 150° to 170° C. to produce 2-butyl-2-ethyl-1,3-propanediol.

reactant | 2-ethyl-2-(hydroxymethyl)hexanal | C(C)C(C=O)(CCCC)CO | C9H18O2
catalyst | nickel | [Ni] | Ni
product | 2-butyl-2-ethyl-1,3-propanediol | C(CCC)C(CO)(CO)CC | C9H20O2
